US08754100B2
Synthesis of [1-(3-bromo-4-methoxyphenyl)cyclopropyloxy]trimethylsilane
Trimethylsilyl chloride (6.54 ml) was added to a solution of 1-(3-bromo-4-methoxyphenyl)cyclopropanol (5.0 g) and triethylamine (8.61 ml) in THF (100 ml). The reaction mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (3.84 g).

reactant | Trimethylsilyl chloride | 6.54 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1-(3-bromo-4-methoxyphenyl)cyclopropanol | 5.0 g | BrC=1C=C(C=CC1OC)C1(CC1)O | C10H11BrO2
reactant | triethylamine | 8.61 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [1-(3-bromo-4-methoxyphenyl)cyclopropyloxy]trimethylsilane | 3.84 g | BrC=1C=C(C=CC1OC)C1(CC1)O[Si](C)(C)C | C13H19BrO2Si
